US08669234B2
To a solution of [2-methyl-1-(7-{5-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-oxa-6-azaspiro[3.4]octane-6-carbonyl)-propyl]-carbamic acid methyl ester (81 mg, 0.15 mmol), (1-{2-[5-(4-bromophenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (81 mg, 0.18 mmol) and tetrakis(triphenylphosphine)palladium(0) (18 mg, 0.015 mmol) in 1,2-dimethoxyethane (3.0 mL) was added a solution of potassium carbonate (2M in water, 0.300 mL, 0.60 mmol). The resulting mixture was degassed for 15 minutes with a stream of argon and then heated to 85° C. for 3 hours. After cooling to room temperature, the reaction was filtered through a palladium scavenging column (STRATOSPHERES™ PL-Guanidine MP SPE+, Part #: PL3514-CM89) and the solids were rinsed with methanol. The filtrate was concentrated and purified by flash chromatography (0%-5% methanol/dichloromethane). The resulting residue was repurified by preparative reverse phase HPLC (Gemini, 15 to 50% ACN/H2O+0.1% HCO2H) to yield (1-{7-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (35 mg, 30%). LCMS-ESI+: calculated for C42H52N8O7: 780.40; observed [M+1]+: 781.29. 1H-NMR: 400 MHz, (CD3OD) δ: 7.82-7.72 (m, 4H), 7.69-7.65 (m, 4H), 7.38 (s, 1H), 7.32 (s, 1H), 6.99-6.90 (m, 2H), 5.47-5.42 (m, 1H), 5.20-5.16 (m, 1H), 4.75-4.68 (m, 1H), 4.226-4.21 (m, 1H), 4.03-3.96 (m, 1H), 3.91-3.85 (m, 1H), 3.71-3.48 (m, 7H), 3.00-2.94 (m, 1H), 2.78-2.71 (m, 1H), 2.61-1.90 (m, 10H), 1.83-1.73 (m, 1H), 1.00-0.86 (m, 12H) ppm.

reactant | [2-methyl-1-(7-{5-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-oxa-6-azaspiro[3.4]octane-6-carbonyl)-propyl]-carbamic acid methyl ester | 0.15 mmol, 81 mg | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C28H39BN4O6
reactant | (1-{2-[5-(4-bromophenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.18 mmol, 81 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | potassium carbonate | 0.60 mmol, 2M, 0.300 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 3.0 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1-{7-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 35 mg, 30% | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C42H52N8O7
